US08629169B2
Preparation 15: Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-acetamido-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]bicyclo[3.1.0]hexane-2,6-dicarboxylate
Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]bicyclo[3.1.0]hexane-2,6-dicarboxylate (0.15 g, 264.67 μmol) is dissolved in dichloromethane (10 mL). To this mixture is added triethylamine (55.34 μL, 397.01 μmol) and acetyl chloride (28.25 μL, 397.01 μmol). The mixture is stirred at ambient temperature for 10 minutes. The solvent is removed under reduced pressure to give a residue. The residue is purified by flash chromatography (10% to 100% ethyl acetate/hexanes) to give the title compound (100 mg, 164.27 μmol, 62.06% yield); 1H NMR (CD3Cl) δ 1.44 (t, 27H), 1.95 (s, 3H), 2.16 (m, 1H), 2.22 (s, 3H), 2.60 (dd, 1H), 2.78 (bs, 1H), 3.10 (dd, 1H), 4.59 (m, 1H), 5.50 (d, 1H), 6.92 (t, 1H), 7.06 (m, 1H), 7.11 (d, 1H).

reactant | Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 264.67 μmol, 0.15 g | N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)CSC1=CC(=C(C=C1)F)C | C29H43FN2O6S
reactant | triethylamine | 397.01 μmol, 55.34 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 397.01 μmol, 28.25 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-acetamido-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 164.27 μmol, 100 mg, 62.06% yield | C(C)(=O)N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)CSC1=CC(=C(C=C1)F)C | C31H45FN2O7S
